US08017605B2
Step D: 2-(aminomethyl)-N-(2,2,2-trifluoroethyl)-3H-imidazo[4,5-b]pyridine-6-carboxamide
tert-butyl[(6-{[(2,2,2-trifluoroethyl)amino]carbonyl}-3H-imidazo[4,5-b]pyridin-2-yl)methyl]carbamate (0.657 g, 1.76 mmol) was treated with 4N HCl in dioxane (30 ml). The reaction mixture was stirred at room temperature overnight, concentrated under reduced pressure and co-evaporated with EtOAc twice to give title compound. This crude product was used in the next step without further purification.

reactant | tert-butyl[(6-{[(2,2,2-trifluoroethyl)amino]carbonyl}-3H-imidazo[4,5-b]pyridin-2-yl)methyl]carbamate | 1.76 mmol, 0.657 g | C(C)(C)(C)OC(NCC1=NC=2C(=NC=C(C2)C(=O)NCC(F)(F)F)N1)=O | C15H18F3N5O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 2-(aminomethyl)-N-(2,2,2-trifluoroethyl)-3H-imidazo[4,5-b]pyridine-6-carboxamide | NCC1=NC=2C(=NC=C(C2)C(=O)NCC(F)(F)F)N1 | C10H10F3N5O
